US09388190B2
To a stirred solution of 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-1,6-bis(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-one (780 mg, 1.27 mmol) in THF/methanol (15 mL/15 mL) was added Cs2CO3 (1.25 g, 3.83 mmol) in one portion. The mixture was allowed to stir at rt for 4 h and concentrated in vacuo to afford the crude product 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-6-(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-one. It was used for the next step reaction without further purification. To a solution of crude 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-6-(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-one, 2-(Boc-amino)ethyl bromide (2.8 g, 12 mmol), tetrabutylammonium iodide (235 mg, 0.63 mmol) in CH2Cl2/toluene (2 mL/4 mL) was added 40% NaOH aqueous solution (20 mL). The mixture was allowed to stir at rt for 20 h. The reaction mixture was diluted with CH2Cl2 (40 mL) and washed with H2O (50 mL). The organic layer was separated, and the aqueous layer was extracted with CH2Cl2 (4×50 mL). The combined organic solution was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by flash chromatography over silica gel eluting with CH2Cl2/Methanol (95/5) to provide tert-butyl (2-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-2-isobutyryl-6-(methylsulfonyl)-1H-indol-1-yl)ethyl)carbamate (300 mg, 35% yield for two steps).

reactant | 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-1,6-bis(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-one | 1.27 mmol, 780 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C2C=C(N(C2=CC1S(=O)(=O)C)S(=O)(=O)C)C(C(C)C)=O | C31H37NO6S2Si
reactant | Cs2CO3 | 3.83 mmol, 1.25 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF methanol | 15 mL | C1CCOC1.CO
product | 1-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-6-(methylsulfonyl)-1H-indol-2-yl)-2-methylpropan-1-one | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC=1C=C2C=C(NC2=CC1S(=O)(=O)C)C(C(C)C)=O | C30H35NO4SSi
